US07709509B2
4.1 g 2-Chloro-4-[4-(tetrahydro-pyran-2-yloxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile were dissolved in 50 ml methanol. 320 mg p-toluenesulfonic acid monohydrate were added and the mixture was stirred for one hour at room temperature. The solvent was removed in vacuo and the residue was dissolved in ethylacetate and washed twice with saturated NaHCO3 solution and brine then dried over MgSO4. The solvent was removed in vacuo to obtain 3.4 g 2-Chloro-4-[4-hydroxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile as pale yellow solid.

reactant | 2-Chloro-4-[4-(tetrahydro-pyran-2-yloxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile | 4.1 g | ClC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1OCCCC1 | C24H20ClF3N2O3S
reactant | p-toluenesulfonic acid monohydrate | 320 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 50 ml | CO | CH4O
product | 2-Chloro-4-[4-hydroxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile | 3.4 g | ClC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CO | C19H12ClF3N2O2S
